US04734429
A solution of 11 ml of methylhydrazine in 50 ml of methanol was added dropwise to an ice-cold solution of 30 grams of 2-acetyl-1,3-cyclohexanedione in 200 ml of methanol and the reaction mixture was heated at reflux for 90 minutes. The solvent was removed under reduced pressure and the residue was triturated in hexane and cooled to give a clammy tan solid. This crude product was recrystallized from a mixture of toluene and hexane to give 1,5,6,7-tetrahydro-1,3-dimethyl-4H-indazol-4-one as a yellow crystalline solid melting at about 82.5°-84° C.

reactant | methylhydrazine | 11 ml | CNN | CH6N2
reactant | 2-acetyl-1,3-cyclohexanedione | 30 grams | C(C)(=O)C1C(CCCC1=O)=O | C8H10O3
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 1,5,6,7-tetrahydro-1,3-dimethyl-4H-indazol-4-one | CN1N=C(C=2C(CCCC12)=O)C | C9H12N2O
